US05998424
1-[(4-Methoxy)phenyl]-3-[(methoxycarbonyl)amino]-5-(methoxycarbonyl)pyrazole.
To a solution of 1-[(4-methoxy)phenyl]-5-(methoxycarbonyl)pyrazole-3-carboxylic acid (3.0 g, 10.9 mmol) in 50 mL of acetone at 0° C. was added triethylamine (1.66 mL, 11.9 mmol) followed by iso-butyl chloroformate (1.14 mL, 11.9 mmol). The resulting was stirred for 30 min whereupon an aqueous solution of sodium azide (2.82 g, 43.4 mmol) was added. The reaction was stirred at 0° C. for 1 h. The reaction was then diluted with ethyl acetate and washed with brine. The organics were dried (MgSO4) and concentrated in vacuo. The residue was dissolved in 50 mL of toluene and stirred at 100° C. for 1 h. The volatiles were removed in vacuo and the residue was dissolved in methanolic sodium methoxide (5 mL of a 25% solution of sodium methoxide in methanol, 21 mmol) and stirred at ambient temperature for 2 h. The reaction was diluted with ethyl acetate, washed with water and brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (elution with 1:1 hexanes/ethyl acetate) to afford 1.1 g (33%) of the title compound as a solid. LRMS (DCI): 306.3 (M+H)+.

reactant | 1-[(4-methoxy)phenyl]-5-(methoxycarbonyl)pyrazole-3-carboxylic acid | 10.9 mmol, 3.0 g | COC1=CC=C(C=C1)N1N=C(C=C1C(=O)OC)C(=O)O | C13H12N2O5
reactant | triethylamine | 11.9 mmol, 1.66 mL | C(C)N(CC)CC | C6H15N
reactant | iso-butyl chloroformate | 11.9 mmol, 1.14 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 43.4 mmol, 2.82 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(4-Methoxy)phenyl]-3-[(methoxycarbonyl)amino]-5-(methoxycarbonyl)pyrazole | 1.1 g, 33% | COC1=CC=C(C=C1)N1N=C(C=C1C(=O)OC)NC(=O)OC | C14H15N3O5
